US08461181B2
A mixture of 5.25 g of N-tert-butyl-2-nitro-4-trifluoromethylaniline, 20 ml of ethyl acetate and 5% palladium charcoal was stirred for 9 hours at room temperature under a hydrogen atmosphere of about 1 atm. The reaction mixture was filtrated through Celite (registered trademark). The filtrate was washed with water, dried over sodium sulfate, then, concentrated under reduced pressure to obtain a residue. The resultant residue was subjected to silica gel chromatography to obtain 4.82 g of N1-tert-butyl-4-trifluoromethylbenzene-1,2-diamine.

reactant | N-tert-butyl-2-nitro-4-trifluoromethylaniline | 5.25 g | C(C)(C)(C)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C11H13F3N2O2
catalyst | palladium charcoal | [Pd] | Pd
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N1-tert-butyl-4-trifluoromethylbenzene-1,2-diamine | 4.82 g | C(C)(C)(C)NC=1C(=CC(=CC1)C(F)(F)F)N | C11H15F3N2
